US20010046991A1
1.37 g (10 mmol) of 2-aminobenzoic acid and 1.23 ml (10 mmol) of 4-methylcyclohexanone were dissolved in 10 ml of phosphorus oxychloride and the reaction mixture was heated under reflux in a nitrogen atmosphere. After 3 h most of the phosphorus oxychloride was removed under vacuum. The remaining brown syrup was poured into a cold sodium bicarbonate (sat.) solution and washed once with chloroform. The yellow precipitate forming in the basic water solution was filtered (2-methyl-1,2,3,4-tetrahydro-9-(10H)-acridone, 46%). Following the procedure of Step 3 in Example 1, but substituting 2-methyl-1,2,3,4-tetrahydro-9-(10H)acridone for 9-(10H)acridone, gave 9-chloro-2-methyl-1,2,3,4-tetrahydroacridine (40%), which was reacted with 4-(4-methylpiperazin-1-yl)aniline (according to the procedure of Step 4 in Example 1), to afford the title compound with 39% yield (overall yield 7%).

reactant | 2-aminobenzoic acid | 10 mmol, 1.37 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | 4-methylcyclohexanone | 10 mmol, 1.23 ml | CC1CCC(CC1)=O | C7H12O
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 9-chloro-2-methyl-1,2,3,4-tetrahydroacridine | 40% | ClC=1C2=CC=CC=C2N=C2CCC(CC12)C | C14H14ClN
